US08207134B2
2) Synthesis of (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-(4-ethylphenyl)-3′,4′,5′,6′-tetrahydro-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran]
(3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-(4-ethylphenyl)-3′,4′,5′,6′-tetrahydro-2-trimethylsilyl-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran] (0.094 g, 0.109 mmol) was dissolved in tetrahydrofuran (0.5 mL). A Solution of tetrabutylammonium fluoride/tetrahydrofuran (1.0 M, 0.43 mL) was added thereto, and then the mixture was stirred for 1.5 hours at room temperature. Saturated aqueous ammonium chloride was added thereto, and the resultant mixture was extracted with diethyl ether. The organic layer was concentrated under reduced pressure, to thereby obtain the titled compound (84.5 mg, 98%).

reactant | (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-(4-ethylphenyl)-3′,4′,5′,6′-tetrahydro-2-trimethylsilyl-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran] | 0.109 mmol, 0.094 g | C(C1=CC=CC=C1)O[C@H]1[C@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC=1C=C3C(=CC12)C(=C(S3)[Si](C)(C)C)C3=CC=C(C=C3)CC | C54H56O6SSi
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 M, 0.43 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-(4-ethylphenyl)-3′,4′,5′,6′-tetrahydro-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran] | 84.5 mg, 98% | C(C1=CC=CC=C1)O[C@H]1[C@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC=1C=C3C(=CC12)C(=CS3)C3=CC=C(C=C3)CC | C51H48O6S
